US08283353B2
ethyl 2-[(2′-cyano-2-methylbiphenyl-4-yl)methyl]-3-oxohexanoate
To a solution (15 mL) of 4′-(hydroxymethyl)-2′-methylbiphenyl-2-carbonitrile (4.12 g) in toluene was added phosphine tribromide (6.00 g) at room temperature, and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated, and the residue was dissolved in ethyl acetate. The obtained ethyl acetate solution was washed with saturated aqueous sodium hydrogen carbonate and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a pale-yellow oil (5.08 g, 96%). To a mixture of 60% sodium hydride in oil (1.10 g) and tetrahydrofuran (20 mL) was added dropwise a mixture of ethyl 3-oxohexanoate (5.62 g) in tetrahydrofuran (20 mL) at 0° C., and the mixture was stirred at room temperature for 30 min. Then, 4′-(bromomethyl)-2′-methylbiphenyl-2-carbonitrile (5.08 g) was added, and the mixture was stirred at room temperature overnight. The reaction mixture was poured into 1 M hydrochloric acid (50 mL), and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless oil (4.53 g, 70%).

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 3-oxohexanoate | 5.62 g | O=C(CC(=O)OCC)CCC | C8H14O3
reactant | 4′-(bromomethyl)-2′-methylbiphenyl-2-carbonitrile | 5.08 g | BrCC1=CC(=C(C=C1)C=1C(=CC=CC1)C#N)C | C15H12BrN
reactant | hydrochloric acid | 1 M, 50 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl 2-[(2′-cyano-2-methylbiphenyl-4-yl)methyl]-3-oxohexanoate | 4.53 g, 70% | C(#N)C1=C(C=CC=C1)C1=C(C=C(C=C1)CC(C(=O)OCC)C(CCC)=O)C | C23H25NO3
